US05922717
a) 2-(4-Methoxycarbonylmethyloxyphenyl)-ethanol
Prepared from 2-(4-hydroxyphenyl)-ethanol, potassium carbonate and methyl bromoacetate analogously to Example XXXVa.

reactant | 2-(4-hydroxyphenyl)-ethanol | OC1=CC=C(C=C1)CCO | C8H10O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | 2-(4-Methoxycarbonylmethyloxyphenyl)-ethanol | COC(=O)COC1=CC=C(C=C1)CCO | C11H14O4
